US05358951
2-Butyl-6-ethenyl-4(1H)-quinazolinone
To a suspension of 15.14 g of methyltriphenylphosphonium bromide in tetrahydrofuran, cooled to -78° C., is slowly added 21.73 ml of 1.95M n-butyllithium in hexanes. The reaction mixture is allowed to warm to room temperature and stirred until all of the phosphonium salt dissolves. This takes approximately 30 minutes. The reaction mixture is cooled to -78° C. and 1.95 g of 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde added in one portion as a solid. The reaction mixture is allowed to warm to room temperature and stirred for 18 hours. The reaction mixture is quenched with saturated ammonium chloride, diluted with water and extracted with ethyl acetate. The organic layer is separated, washed with brine, dried with MgSO4 and concentrated in vacuo to a residue which is purified by chromatography on silica gel using 1:3 ethyl acetate-hexanes to give 2.48 g of the desired product as a solid. CI mass spec 229 (M+H).

reactant | n-butyllithium | 1.95M, 21.73 ml | C(CCC)[Li]
reactant | phosphonium | [PH4+]
reactant | 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde | 1.95 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
catalyst | methyltriphenylphosphonium bromide | 15.14 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Butyl-6-ethenyl-4(1H)-quinazolinone | 2.48 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=C | C14H16N2O
